US07935722B2
N-[9-(3-Fluoro-benzyl)-6-(2,2,2-trifluoro-acetyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-isobutyramide
Mix N-[6-(2,2,2-trifluoro-acetyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-isobutyramide (Preparation 74) (428 mg, 0.93 mmol), m-fluorobenzyl bromide (216 mg, 1.11 mmol), Cs2CO3 (650 mg, 2 mmol) and DMF (10 mL). Warm the reaction at 50° C. for 18 h, cool and partition between water/brine/EtOAc. Separate and dry the organic layer (MgSO4), filter and concentrate to give 590 mg of crude product. Purify by silica gel chromatography, using 10% to 60% EtOAc/hexane to obtain 68 mg (16%) of the title compound as a pale yellow solid. MS (ES) m/z 461 (M+1); HPLC: Rt=3.43 min (95%).

reactant | N-[6-(2,2,2-trifluoro-acetyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-isobutyramide | 0.93 mmol, 428 mg | FC(C(=O)C=1C=C2C=3CC(CCC3NC2=CC1)NC(C(C)C)=O)(F)F | C18H19F3N2O2
reactant | m-fluorobenzyl bromide | 1.11 mmol, 216 mg | FC=1C=C(CBr)C=CC1 | C7H6BrF
reactant | Cs2CO3 | 2 mmol, 650 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-[9-(3-Fluoro-benzyl)-6-(2,2,2-trifluoro-acetyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-isobutyramide | 68 mg, 16% | FC=1C=C(CN2C3=CC=C(C=C3C=3CC(CCC23)NC(C(C)C)=O)C(C(F)(F)F)=O)C=CC1 | C25H24F4N2O2
